US04833169
To a solution of 12.11 g (50 mmol) of methanesulphonic acid (5-methoxybenzocyclobuten-1-ylmethyl) ester in 100 ml of dimethylformamide there are added first 8.45 g (55 mmol) of piperidone hydrochloride monohydrate and then 22.62 g (175 mmol) of N-ethyl-N,N-diisopropylamine. The mixture is stirred at 80° C. for 18 hours and, after cooling, is concentrated to dryness by evaporation under reduced pressure. The residue is dissolved in diethyl ether and washed with water. The organic phase is separated off and extracted with 2N hydrochloric acid. The hydrochloric acid extracts are combined, rendered alkaline at reduced temperature with sodium hydroxide solution and extracted with dichloromethane. The extracts are combined, dried over sodium sulphate and concentrated to dryness by evaporation under reduced pressure. A dark brown resin is obtained which is purified by chromatography on 350 g of silica gel (0.040-0.063 mm) with toluene/ethyl acetate (1:1). 1-[(5-methoxybenzocyclobuten-1-yl)methyl]piperidin-4-one is obtained in the form of a light-yellow oil.

reactant | methanesulphonic acid (5-methoxybenzocyclobuten-1-ylmethyl) ester | 50 mmol, 12.11 g | COC=1C=CC2=C(C(=C2)COS(=O)(=O)C)C1 | C11H12O4S
reactant | piperidone hydrochloride monohydrate | 55 mmol, 8.45 g | O.Cl.N1C(CCCC1)=O
reactant | N-ethyl-N,N-diisopropylamine | 175 mmol, 22.62 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-[(5-methoxybenzocyclobuten-1-yl)methyl]piperidin-4-one | COC=1C=CC2=C(C(=C2)CN2CCC(CC2)=O)C1 | C15H17NO2
